US07718657B2
Methyl 4-(4-nitro-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate.
To a room temperature solution of 1-Chloro-4-nitro-2,3-dihydro-1H-indene (221 mg, 1.12 mmol, 1.0 equiv) and DIPEA (430 μL, 2.46 mmol, 2.2 equiv) in dry acetonitrile (1.6 mL) was added methylpiperazine carboxylate hydrochloride salt (444 mg, 2.46 mmol, 2.2 equiv) as a solid in one portion. The resulting reaction mixture was heated to 79° C. overnight. The reaction mixture was allowed to cool to RT and diluted with EtOAc. The organic layer was extracted with 1 M HCl (3×20 mL), and the combined aqueous layers were treated with 3 N NaOH until the pH=10. The resulting solution was extracted three times with EtOAc, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to provide the title compound as a brown oil (239 mg, 78%). LCMS [M+H]+=306.1.

reactant | 1-Chloro-4-nitro-2,3-dihydro-1H-indene | 1.12 mmol, 221 mg, 1.0 equiv | ClC1CCC2=C(C=CC=C12)[N+](=O)[O-] | C9H8ClNO2
reactant | DIPEA | 2.46 mmol, 430 μL, 2.2 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | methylpiperazine carboxylate hydrochloride salt | 2.46 mmol, 444 mg, 2.2 equiv | Cl.COC(=O)N1CCNCC1
solvent | acetonitrile | 1.6 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-(4-nitro-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate | 239 mg, 78% | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)N1CCN(CC1)C(=O)OC | C15H19N3O4
